US07994185B2
2,6-Difluoro-N-{2-fluoro-3-[2-(1-methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (0.100 g, 0.190 mmol) and 2-aminoethyl-methyl-sulfone (0.100 g, 0.812 mmol), the title compound was obtained as an off-white solid (53 mg, 43% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.87 (s, 1H), 8.09 (d, J=5.1 Hz, 1H), 7.62-7.74 (m, 1H), 7.39-7.49 (m, 2H), 7.33-7.39 (m, 1H), 7.20-7.32 (m, 3H), 5.89-6.05 (m, 1H), 3.63 (br. s., 2H), 3.34-3.39 (m, 2H), 3.25-3.31 (m, 1H), 2.99-3.04 (m, 3H), 1.35 (d, J=6.9 Hz, 6H). MS (ESI): 613.2 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.190 mmol, 0.100 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C22H16ClF3N4O2S2
reactant | 2-aminoethyl-methyl-sulfone | 0.812 mmol, 0.100 g | NCCS(=O)(=O)C | C3H9NO2S
product | 2,6-Difluoro-N-{2-fluoro-3-[2-(1-methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C(=CC=C1)C=1N=C(SC1C1=NC(=NC=C1)NCCS(=O)(=O)C)C(C)C)F | C25H24F3N5O4S3
